US07888364B2
Procedure F was performed using 50 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide and 93 μL of 1-ethylpiperazine in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(4-ethylpiperazin-1-yl)nicotinamide. MS (Q1) 422.0 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide | 50 mg | ClC1=NC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C17H11Cl2N3O
reactant | 1-ethylpiperazine | 93 μL | C(C)N1CCNCC1 | C6H14N2
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(4-ethylpiperazin-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=CN=C(C=C1)N1CCN(CC1)CC)=O)C1=NC=CC=C1 | C23H24ClN5O
